US05470851
1-{2-[Bis(4-fluorophenyl)methoxy]ethyl}homopiperazine
Following a procedure similar to that described in Preparation 1, but using 2-[bis(4-fluorophenyl)methoxy]ethyl chloride and homopiperazine, the title compound was obtained in a yield of 88%.

reactant | 2-[bis(4-fluorophenyl)methoxy]ethyl chloride | FC1=CC=C(C=C1)C(OCCCl)C1=CC=C(C=C1)F | C15H13ClF2O
reactant | homopiperazine | N1CCNCCC1 | C5H12N2
product | 1-{2-[Bis(4-fluorophenyl)methoxy]ethyl}homopiperazine | yield of 88% | FC1=CC=C(C=C1)C(OCCN1CCNCCC1)C1=CC=C(C=C1)F | C20H24F2N2O
